US08124606B2
Compound 65A: Methyl 6-(2-(methoxycarbonyl)piperidin-1-yl)-5-nitronicotinate:
Methyl 6-chloro-5-nitronicotinate (2.0 g, 9.23 mmol) was added to methyl piperidine-2-carboxylate (5.2 g, 36.92 mmol) while stirring at room temperature. The viscous yellow reaction was heated to 90° C. for one h and then allowed to cool back to room temperature. The reaction was diluted with dichloromethane (20 mL) and purified via column chromatography (220 g SiO2, 20-30% gradient, ethyl acetate in hexanes) to yield the title compound (2.95 g, 99% yield) as a yellow oil. [M+H] calc'd for C14H17N3O6, 324. found, 324.

reactant | Methyl 6-chloro-5-nitronicotinate | 9.23 mmol, 2.0 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | methyl piperidine-2-carboxylate | 36.92 mmol, 5.2 g | N1C(CCCC1)C(=O)OC | C7H13NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Methyl 6-(2-(methoxycarbonyl)piperidin-1-yl)-5-nitronicotinate | 2.95 g, 99% yield | COC(=O)C1N(CCCC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C14H17N3O6
